Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Erythromycin Base / Tetracyclines / Biaxin
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with atrial fibrillation status post ablation (___), heart 
block s/p pacemaker (___), ___ (with EF at most 40%, per pt 
report) presents with gradual onset of substernal chest pressure 
that radiates to her back. Patient trying to fall asleep ___ 
when she developed ___ chest pressure with radiation to back 
and both shoulders, associated with nausea, and later felt 
clammy. Pressure was ongoing from 9:30PM, unrelieved by SLNTG x 
3 in ambulance, and finally subsided after morphine 5mg given 
~1AM in ED. The only other time she has had this kind of chest 
pressure was in ___, when a catheterization showed "no 
obstructions or clots."  Patient denies any shortness of breath, 
vomiting, abdominal pain, fevers, chills, cough. Patient did 
have a recent car trip from ___. Pt visiting from ___ for 
___. 

Pt is currently pain free. She has baseline dyspnea on exertion 
and can walk ~1block before needing to rest. This began over the 
summer. She had an echo which showed depressed systolic 
function, and underwent cath which again showed no obstructions, 
per pt report. She has been arranged to have a 3-lead pacemaker 
placed in ___.  Notably, she normally takes BP on thigh due 
to temporal arteritis (BPs falsely in ___ on both arms).

In the ED, initial vitals were: T 97.7 HR 65 RR 20 BP 110/90 
SaO2 99% on NC

Labs notable for troponin-T <0.01 -> 0.14. ECG showed 
ventricular pacing with underlying atrial flutter and LBBB. Pt 
meets sgarbossa's criteria by concordant depressions of ST 
segment ~4mm in V5-V6. CTA chest showed no PE or aortic 
dissection. 
Patient was given 1 L NS, 5mg IV morphine and started on a 
heparin gtt @ 700 U/hr. 
 
On review of systems, she endorses a possible "TIA" yesterday 
morning - she was eating breakfast when her husband noticed 
slurred speech, followed by a left facial droop, and poor left 
hand to mouth coordination while feeding herself. These signs 
resolved within minutes. Pt has not had further similar 
episodes. She denies any prior history of stroke or TIA, DVT or 
PE, cough, hemoptysis, black stools or red stools. She denies 
recent fevers, chills or rigors.  
 
Cardiac review of systems is notable for absence of paroxysmal 
nocturnal dyspnea, orthopnea, ankle edema, palpitations, syncope 
or presyncope.  
 
Past Medical History:
- Hypertension
- Dyslipidemia
- Atrial fibrillation s/p ablation in ___
- Bradycardia s/p dual-chamber permanent pacemaker (___)
- Bilateral subdural hematoma while on warfarin for Afib, s/p 
craniotomy (at ___ in ___
- CHF (unknown EF - last echo in ___
- Asthma (never intubated)
- Carcinoid s/p proximal colon and appendix resection (___)
- Temporal arteritis (___)
- Diverticulitis c/b abscess, s/p resection (___)
- Hypothyroidism
- Anxiety
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory. 
 
Physical Exam:
ADMISSION
VS: 97.6  159/86-170/93  72  14  94%RA
General: WDWN woman appearing stated age in no distress
HEENT: MMM, OP clear  
Neck: no JVD appreciated  
CV: RRR, nl S1, loud S2, no murmur appreciated
Lungs: trace inspiratory crackles and faint expiratory wheeze on 
left
Abdomen: soft, NT, normoactive BS, vertical scar below umbilicus
GU: no foley
Ext: warm, no edema  
Neuro: Pt with slight droop of left face, however appears normal 
to her husband. ___ nerve strength equal bilaterally. 
strength in  upper and lower compartments ___ bilaterally. 
Skin: no rashes noted
PULSES: 2+ DP pulses

DISCHARGE
VS: 98.0 151/62 67 88 96%RA Wt 62kg
General: WDWN woman appearing stated age in no distress
HEENT: MMM, OP clear  
Neck: no JVD appreciated  
CV: RRR, nl S1, loud S2, no murmur appreciated
Lungs: CTA on right, trace basilar crackles on left
Abdomen: soft, NT, normoactive BS, vertical scar below umbilicus
GU: no foley
Ext: warm, no edema  
Neuro: No focal deficit

 
Pertinent Results:
ADMISSION LABS
___ 01:25AM BLOOD WBC-10.2 RBC-4.33 Hgb-13.0 Hct-39.9 
MCV-92 MCH-30.0 MCHC-32.6 RDW-13.2 Plt ___
___ 01:25AM BLOOD Neuts-79.6* Lymphs-12.4* Monos-3.4 
Eos-3.7 Baso-0.9
___ 01:25AM BLOOD ___ PTT-52.5* ___
___ 01:25AM BLOOD Glucose-167* UreaN-25* Creat-1.0 Na-136 
K-3.8 Cl-100 HCO3-25 AnGap-15
___ 07:10AM BLOOD Calcium-9.3 Phos-4.1 Mg-2.0
___ 01:25AM BLOOD cTropnT-<0.01
___ 07:10AM BLOOD cTropnT-0.14*
___ 02:44PM BLOOD CK-MB-57* MB Indx-8.6* cTropnT-2.08*
___ 09:56PM BLOOD CK-MB-41* MB Indx-7.2* cTropnT-1.63*
___ 07:40AM BLOOD CK-MB-24* MB Indx-6.0 cTropnT-1.11*
___ 07:40AM BLOOD Cholest-111
___ 07:40AM BLOOD HDL-41 CHOL/HD-2.7
___ 03:10PM BLOOD %HbA1c-6.1* eAG-128*
___ 07:40AM BLOOD TSH-4.1

EKG ___: Extensive baseline artifact precludes accurate 
rhythm identification. It is a ventricularly paced rhythm and 
the atrial mechanism appears to be an atrial flutter versus 
tachycardia with variable block. No previous tracing available 
for comparison.

EKG ___: The atrial flutter waves are more defined. The 
ventricular rhythm remains paced given the regular ventricular 
rate of 65 beats per minute. There is likely underlying complete 
heart block with demand ventricular pacing. Findings are similar 
to tracing #1.

CXR ___: FINDINGS:  Portable upright frontal view of the 
chest.  
A dual-chamber cardiac pacer is present.  There is moderate 
cardiomegaly, and an unfolded, slightly tortuous aorta.  There 
are coarse increased interstitial markings throughout both lung 
bases, consistent with mild interstitial edema. There is no 
overt pulmonary edema. ___ B lines are noted and could 
reflect chronic CHF. Increased retrocardiac density may 
represent a combination of atelectasis and CHF findings.  No 
definite focal consolidation. No pleural
effusion or pneumothorax is detected.   Incidental note made of 
soft tissue anchor over left humeral head.
IMPRESSION:  Moderate cardiomegaly and mild interstitial edema.

CTA CHEST ___:
1.  Findings supportive of cardiac insufficiency including 
cardiomegaly, mild interstitial pulmonary edema, and enlarged 
central pulmonary arteries.
2.  No evidence for pulmonary emboli down to the segmental 
level.  
3.  A 2.2 x 0.8 cm left upper lobe nodular density with a 
ground-glass component and surrounding tiny nodules is 
concerning for infection, however, malignancy is not entirely 
excluded.  Infection is more likely due to the adjacent nodules 
and the somewhat geographic character of the main opacity.  
Follow-up CT is recommended for surveillance.  A focal area of 
ground glass opacity in the left lower lobe could potentially 
represent an additional
source of infection versus focal area of pulmonary edema. 
4.  Atherosclerotic vascular calcifications.
5.  Dilated descending aorta.  Aortic dissection cannot be 
excluded on this study due to the timing of the contrast bolus.  
Repeat study could be considered if there is a high clinical 
suspicion for aortic dissection. 

CTA CHEST ___ (to r/o aortic dissection)
1. Focal ectasia of the descending thoracic aorta with no 
evidence of dissection, intramural hematoma, or other acute 
pathology.  Follow-up imaging of the aorta could be obtained at 
the time of previously recommended follow up for left upper lobe 
nodule, which should be pursued in ___ months by chest CT.
2. Overall improvment in extent of pulmonary edema since the 
prior study. Otherwise, no change since the CTA of the chest 
from 4 hours prior.

CT HEAD ___
FINDINGS:  There is no acute intracranial hemorrhage, edema, 
mass effect, or acute vascular territorial infarction.  The 
ventricles and sulci are prominent, consistent with age-related 
involutional changes.  There is prominence of the bilateral 
frontal extra-axial spaces which may represent a cystic hygroma 
from the prior subdural hematomas, with a component of frontal
atrophy.  There are periventricular and subcortical white matter 
hypodensities, which are suggestive of chronic small vessel 
ischemic disease.  A left frontal craniotomy is well healed.  
There is no acute fracture.  The paranasal sinuses and middle 
ear cavities are clear.  There is some fluid opacification of 
bilateral mastoid air cells.
IMPRESSION:  No acute intracranial process.

ECHOCARDIOGRAM ___
The left atrial volume is severely increased. The right atrium 
is moderately dilated. No atrial septal defect is seen by 2D or 
color Doppler. The estimated right atrial pressure is ___ mmHg. 
Left ventricular wall thicknesses and cavity size are normal. 
There is mild regional left ventricular systolic dysfunction 
with severe hypokinesis/akinesis of the basal septum. The mid 
anterior septum appears hypokinetic, but this may be secondary 
to interventricular conduction delay on account of pacing. The 
remaining segments contract normally (LVEF = 55-60 %). Right 
ventricular chamber size and free wall motion are normal. The 
ascending aorta is mildly dilated. The abdominal aorta is mildly 
dilated. The aortic valve leaflets (3) are mildly thickened but 
aortic stenosis is not present. Mild (1+) aortic regurgitation 
is seen. The mitral valve leaflets are mildly thickened. There 
is no mitral valve prolapse. Mild to moderate (___) mitral 
regurgitation is seen. Moderate to severe [3+] tricuspid 
regurgitation is seen. There is moderate pulmonary artery 
systolic hypertension. [In the setting of at least moderate to 
severe tricuspid regurgitation, the estimated pulmonary artery 
systolic pressure may be underestimated due to a very high right 
atrial pressure.] There is no pericardial effusion. 
IMPRESSION: Mild regional left ventricular systolic dysfunction 
not in a typical location for CAD. Mild to moderate mitral 
regurgitation. Moderate to severe tricuspid regurgitation. At 
least moderate pulmonary hypertension. 

 
Brief Hospital Course:
___ F with Atrial fibrillation s/p ablation and dual chamber 
pacemaker, subdural hematoma while on warfarin s/p craniotomy, 
recently diagnosed systolic CHF, no known CAD presents with 4 
hours chest pressure, found with trop elevation and concordant 
ST depressions in V5-V6, admitted for NSTEMI.
 
#) NSTEMI: Pt with 4 hours chest pressure radiating to back and 
shoulders. Pt was hypertensive to 170s. Chest CTA ruled out PE 
and aortic dissection. Trop peaked at 2.08, with peak CKMB 57, 
peak index 8.6 on ___. Initial EKG with concordant depressions 
of ST segments in V5-6 that later resolved (unknown prior EKG). 
Outside catheterization done one month ago showed clean 
coronaries wtih good TIMI III flow. Given recent negative cath, 
pt was thought to have small vessel coronary disease that would 
not benefit from catheterization, as it would not be able to be 
intervened upon. Pt was managed medically with heparin drip, 
plavix and blood pressure control. Echo showed mild regional 
left ventricular systolic dysfunction with severe 
hypokinesis/akinesis of the basal septum, not thought to be 
typical for CAD. The remaining segments contracted normally; 
LVEF = 55-60%.  Pt was discharged on optimized home regimen, 
without plavix, as the mechanism of myocyte injury was not 
thought to be an acute clot. Amlodipine 2.5mg was added for 
better blood pressure control, and her BID metoprolol dosing was 
switched to metoprolol succinate 200mg once daily.

# CHF: Pt appeared euvolemic during admission. Echo done largely 
to confirm EF and investigate for regional wall motion 
abnormalities was significant for a normal EF, and basal septal 
hypokinesis, not typical for CAD. Given the pt's reported 
history of new dyspnea on exertion over the summer, and 
significant anxiety component to pt's global picture, it is 
possible pt had a stress-induced cardiomyopathy that has 
improved since the ___. Pt was maintained on lasix 20mg 
daily, ACEI, and betablocker.

# HTN: Remained uncontrolled in 160s despite receiving all home 
meds. Pt was maintained on quinapril 40mg BID, betablockade, 
hydralazine 25mg TID. Amlodipine 2.5mg was added to pt's 
antihypertensive regimen. 

# ?TIA: Pt with facial droop and uncoordinated hand-eye 
movements, observed by husband, on the morning of the day prior 
to admission. These deficits resolved completely, within 
minutes. Pt had no further neurologic deficits while admitted. 
Neurology was consulted for concern for TIA, though their 
assessment was that the duration of symptoms is less consistent 
with TIA. TTE revealed no thrombus. Lipid panel, A1c, and TSH 
were within normal limits. CT-head was negative for acute 
intracranial process. Neurology recommended non-urgent Head CTA 
for further evaluation. The option of further anticoagulation 
for stroke prophylaxis was discussed with the pt, who preferred 
to defer at this time, given her history of subdural hematoma 
requiring craniotomy in the past. 

# Atrial Fibrillation s/p ablation, now pacemaker dependent: Pt 
appeared to be in atrial flutter on admission EKG, with normal, 
paced ventricular rate. Pt was continued on beta blocker and 
full dose aspirin.

TRANSITIONAL ISSUE
- Consider non-urgent head CTA for work up of possible TIA
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 325 mg PO DAILY 
2. Metoprolol Tartrate 100 mg PO BID 
3. Quinapril 40 mg PO BID 
4. Furosemide 20 mg PO DAILY 
5. HydrALAzine 25 mg PO TID 
6. Atorvastatin 40 mg PO DAILY 
7. ginkgo biloba 60 mg oral daily 
8. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral daily 
9. flaxseed 1,000 mg oral daily 
10. Lorazepam 0.5 mg PO DAILY 
11. Zolpidem Tartrate 12.5 mg PO HS:PRN insomnia 
12. Magnesium Oxide 250 mg PO DAILY 
13. lutein 20 mg oral daily 
14. lecithin 1,200 mg oral daily 
15. Osteo Bi-Flex (glucosamine-chondroitin) 250-200 mg oral BID 
16. Montelukast Sodium 10 mg PO DAILY 
17. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
18. Clarinex (desloratadine) 5 mg oral daily 
19. calcium-magnesium-zinc 333-133-8.3 mg oral daily 
20. Paroxetine 20 mg PO DAILY 
21. Levothyroxine Sodium 88 mcg PO DAILY 
22. Multivitamins 1 TAB PO DAILY 
23. Guaifenesin ER 600 mg PO Q12H 

 
Discharge Medications:
1. Aspirin 325 mg PO DAILY 
2. Atorvastatin 80 mg PO DAILY 
3. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
4. Furosemide 20 mg PO DAILY 
5. Guaifenesin ER 600 mg PO Q12H 
6. HydrALAzine 25 mg PO TID 
7. Levothyroxine Sodium 88 mcg PO DAILY 
8. Lorazepam 0.5 mg PO DAILY 
9. Montelukast Sodium 10 mg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. Paroxetine 20 mg PO DAILY 
12. Quinapril 40 mg PO BID 
13. Zolpidem Tartrate 12.5 mg PO HS:PRN insomnia 
14. Amlodipine 2.5 mg PO DAILY 
RX *amlodipine 2.5 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
15. Calcium 600 with Vitamin D3 (calcium carbonate-vitamin D3) 
600 mg(1,500mg) -200 unit oral daily 
16. calcium-magnesium-zinc 333-133-8.3 mg oral daily 
17. Clarinex (desloratadine) 5 mg oral daily 
18. flaxseed 1,000 mg oral daily 
19. ginkgo biloba 60 mg oral daily 
20. lecithin 1,200 mg oral daily 
21. lutein 20 mg oral daily 
22. Magnesium Oxide 250 mg PO DAILY 
23. Osteo Bi-Flex (glucosamine-chondroitin) 250-200 mg oral BID 
24. Metoprolol Succinate XL 200 mg PO DAILY 
RX *metoprolol succinate 200 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
NSTEMI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure to take care of you during your stay at ___. 
You came in with chest pain. Your blood pressure was also very 
high. We think that, since you had a clean coronories on your 
catheterization one month ago, that most likely your blood 
pressure was too high and you had some damage to the heart. We 
did an echocardiogram, which showed normal pump function, but 
showed some abnormal movements of the walls of the heart, that 
don't really correlate with coronary artery disease. We think 
you may have had a stress-induced cardiomyopathy ("Takutsubo") 
over the ___, that is now recovering, on top of your 
hypertensive disease. We didn't do a catheterization because we 
highly doubted that you suddenly developed a big obstruction in 
an artery that we could stent, when you had the clean 
catheterization just one month ago. 

The one thing we did was add another medication called 
amlodipine to help control your blood pressure. 

Since your heart pump function is now normal, we do not think 
you need the "3 lead" or bi-ventricular pacemaker you were 
talking about. You should make appointment with your 
cardiologists Dr. ___ Dr. ___ to discuss this further.
 
Followup Instructions:
___